US05534515
6. 1-Benzyl-7-benzylamino-3-bromo-2-methylpyrrolo[2,3-d]pyridazine
A solution of 1.0 g (2.97 retool) of 1-benzyl-3 -bromo-7-chloro-2-methylpyrrolo [2,3-d]pyridazine in 5 ml of benzylamine is heated to 150° C. for 5 h and subsequently cooled to room temperature. The solution is then treated with 50 ml of water, adjusted to pH 6 with 2 N hydrochloric acid and extracted with 2×50 ml of dichloromethane. The organic extracts are dried over magnesium sulfate and concentrated. The residue which remains is chromatographed on silica gel (eluent: toluene/dioxane=2:1). After concentration of the fractions of Rf=0.25 and crystallization from diisopropyl ether, 1.01 g (84%) of the title compound are isolated. M.p.: 185°-188° C.

reactant | 1-benzyl-3 -bromo-7-chloro-2-methylpyrrolo [2,3-d]pyridazine | 1.0 g | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)Cl)Br)C | C14H11BrClN3
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | benzylamine | 5 ml | C(C1=CC=CC=C1)N | C7H9N
product | 1-Benzyl-7-benzylamino-3-bromo-2-methylpyrrolo[2,3-d]pyridazine | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)NCC2=CC=CC=C2)Br)C | C21H19BrN4
